US04594347
To a mixture of 9-(1-piperazinyl)-8-fluoro-7-amino-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (3.45 g) and dimethylformamide (20 ml) is added a dimethylformamide solution (20 ml) of trifluoromethyl iodide containing methyl iodide (7.7 g), and the mixture is reacted in a stainless steel autoclave on an oil bath at 110°-120° C. for 5 hours. After completion of reaction, dimethylformamide is distilled off under reduced pressure, and to the residue is added a 10% aqueous sodium hydroxide solution. Insoluble materials are removed by filtration. The filtrate is regulated to pH 8 with acetic acid, and the precipitated crystal is separated by filtration, washed with water, and dried to give 9-(4-methyl-1-piperazinyl)-8-fluoro-7-amino-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (1.82 g) as yellow cubic crystals. m.p. 240°-243° C.

reactant | 9-(1-piperazinyl)-8-fluoro-7-amino-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 3.45 g | N1(CCNCC1)C1=C(C(=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O)N)F | C17H19FN4O3
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | methyl iodide | 7.7 g | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 9-(4-methyl-1-piperazinyl)-8-fluoro-7-amino-2-methyl-1,2-dihydro-6-oxo-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 1.82 g | CN1CCN(CC1)C1=C(C(=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O)N)F | C18H21FN4O3
